US07723333B2
4-{3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}benzoic acid
Methyl 4-{3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}benzoate (0.90 g, 0.19 mmol) and LiI (0.382 g, 2.86 mmol) was dissolved in dry pyridine (1 mL) and heated at reflux for 4 h and then left at rt over night. The reaction mixture was purified by flash chromatography using first Hexane and EtOAc and then EtOAc and MeOH as eluant giving the title compound (0.003 g, 3.4%). 1H NMR (CD3CN): 7.98 (d, 2H), 7.56-7.48 (m, 5H), 6.90 (d, 2H), 6.02 (t, 1H), 3.90 (t, 2H), 3.12-3.08 (m, 2), 1.82-1.76 (t, 2H), 1.17 (s, 9H); Mass Spectrum: M+H+ 459.

reactant | Methyl 4-{3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}benzoate | 0.19 mmol, 0.90 g | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)(=O)=O | C24H28N2O6S
reactant | LiI | 2.86 mmol, 0.382 g | [Li+].[I-]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 4-{3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}benzoic acid | 0.003 g, 3.4% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1)(=O)=O | C23H26N2O6S
